US07148353B2
2-(4-Methoxy-phenyl)-6-methyl-imidazo[1,2-a]pyridine
To a magnetically stirred solution of 2-bromo-1-(4-methoxy-phenyl)-ethanone (3.0 g, 13.09 mmol) and 5-methyl-pyridin-2-ylamine (1.42 g, 13.09 mmol) in EtOH (30 mL) under Ar atmosphere was added sodium carbonate (2.77 g, 26.18 mmol). The reaction mixture was refluxed for 4 h. The mixture was cooled to room temperature and concentrated in vacuo. Water (60 mL) was added, and the aqueous phase was extracted with dichloromethane (100 mL). The combined organic layers were washed with water (100 mL), dried (MgSO4), and concentrated in vacuo to provide the title compound (2.8 g, 90%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 2.27 (s, 3H), 3.82 (s, 3H), 6.95 (m, 3H), 7.48 (d, J=8.8 Hz, 1H), 7.65 (s, 1H), 7.85 (m, 3H).

reactant | 2-bromo-1-(4-methoxy-phenyl)-ethanone | 13.09 mmol, 3.0 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | 5-methyl-pyridin-2-ylamine | 13.09 mmol, 1.42 g | CC=1C=CC(=NC1)N | C6H8N2
reactant | sodium carbonate | 26.18 mmol, 2.77 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-(4-Methoxy-phenyl)-6-methyl-imidazo[1,2-a]pyridine | 2.8 g, 90% | COC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C15H14N2O
